US07332529B2
Synthesis of 3,5-dinonoxybenzyl Amine
A thick walled glass bottle containing a stir bar was flushed with nitrogen gas. 5% Palladium on activated carbon (0.53 g, 10% by mass) was added and wetted with a solution of 50% methanol/ether (about 10 mL). A solution of 3,5-dinonoxybenzylazide (5.3 g, 12.68 mmol) in 50% methanol/ether (about 40 mL) was added. The mixture was hydrogenated with hydrogen gas at 40 psi for approximately 1 hour. The mixture was then filtered through celite with a controlled vacuum using.50% methanol/ether. The solvent was removed from the filtrate under reduced pressure and then the trace solvent was removed with using high vacuum. The starting material was still present in the resulting organic oil, so hydrogenation and celite filtration were repeated until there is no azide remained (3 times). There was a 7.3 g yield or a 62.26% yield of the derivative. The NMR characterization data for this derivative is as follows. 1NMR (300 MHz, CDCl3): 0.88 (t, J=6.3, 6H, CH2CH3), 1.1-1.55 (m, 28H, CH2(CH2)6), 1.76 (p, J=6.6, 4H, OCH2CH2), 3.78 (s, 2H,), 3.95 (t, J=6.6, 4H,), 6.33 (t, J=2.2, 1H, ArH), 6.44 (d, J=2.2, 2H, ArH).

reactant | 3,5-dinonoxybenzylazide | 12.68 mmol, 5.3 g | C(CCCCCCCC)OC=1C=C(CN=[N+]=[N-])C=C(C1)OCCCCCCCCC | C25H43N3O2
reactant | hydrogen | [H][H] | H2
solvent | methanol ether | about 40 mL | CO.CCOCC
product | 3,5-dinonoxybenzyl Amine | 62.26% yield | C(CCCCCCCC)OC=1C=C(CN)C=C(C1)OCCCCCCCCC | C25H45NO2
